US05273975
5,6-Dihydro-N,N-dimethyl-4H-pyrazolo(4,3,2-ij)quinolin-5-amine (compound 89)
This compound was prepared by following the procedure of Example 18, but substituting methyl 7-(bromomethyl)-1H-indazole-1-carboxylate for t-butyl 4-(bromomethyl)-1H-benzimidazole-1-carboxylate and diethyl (dimethylamino)malonate for diethyl (dipropylamino)malonate.

reactant | t-butyl 4-(bromomethyl)-1H-benzimidazole-1-carboxylate | BrCC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | diethyl (dimethylamino)malonate | CN(C)C(C(=O)OCC)C(=O)OCC | C9H17NO4
reactant | diethyl (dipropylamino)malonate | C(CC)N(CCC)C(C(=O)OCC)C(=O)OCC | C13H25NO4
product | 5,6-Dihydro-N,N-dimethyl-4H-pyrazolo(4,3,2-ij)quinolin-5-amine | CN(C1C=2CC=CN3C2C(=CC1)C=N3)C | C12H15N3
